US06908939B2
(f) methyl (S)-3-(3′-{[(1-biphenyl-4-ylmethanoyl)methylamino]methyl}biphenyl-4-yl)-2-ethoxypropionate
In a manner similar to Example 1(g), by reacting 500 mg (1.5 mmol) of methyl (S)-2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate with 680 mg (3.1 mmol) of 4-biphenylcarboxylic acid chloride, 360 mg (47%) of the expected product are obtained after purification by chromatography on a silica column eluted with a heptane and ethyl acetate (70/30) mixture.

reactant | methyl (S)-2-ethoxy-3-(3′-methylaminomethylbiphenyl-4-yl)propionate | 1.5 mmol, 500 mg | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC | C20H25NO3
reactant | 4-biphenylcarboxylic acid chloride | 3.1 mmol, 680 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | methyl (S)-3-(3′-{[(1-biphenyl-4-ylmethanoyl)methylamino]methyl}biphenyl-4-yl)-2-ethoxypropionate | 360 mg, 47% | C1(=CC=C(C=C1)C(=O)N(C)CC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC)C1=CC=CC=C1 | C33H33NO4
